US06835216B2
Preparation of 2,4,6-trimethyl-5-pyrimidinol
The 2,4-dimethyl-5-acetyloxazole is poured into a Parr Bomb with 20 ml (51 mmol) of concentrated ammonium hydroxide and brought to 180° C. in three hours. Heating is continued for 10 hours, and after cooling the mixture is brought to pH 5 with HCl, extracted into ether, dried over Na2SO4 and stripped in vacuo. The residual solid is crystallized from benzene to give pale yellow crystals (1.3 g, 60%).

reactant | 2,4-dimethyl-5-acetyloxazole | CC=1OC(=C(N1)C)C(C)=O | C7H9NO2
reactant | ammonium hydroxide | 51 mmol, 20 ml | [OH-].[NH4+]
reactant | HCl | Cl | ClH
product | 2,4,6-trimethyl-5-pyrimidinol | 1.3 g, 60% | CC1=NC(=C(C(=N1)C)O)C | C7H10N2O
